US09446130B2
To a 100 ml one neck round bottom flask was charged with 7-(8-chloroimidazo[1,5-a]pyrazin-3-yl)-3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine (540 mg, 1.571 mmol) along with DMF (5 ml). The mixture was stirred and 1-bromopyrrolidine-2,5-dione (308 mg, 1.728 mmol) was added in on batch. The resulting reaction mixture was then stirred at room temperature for 18 hrs overnight. The mixture was diluted with ethyl acetate and washed with NaHCO3 (sat), water, dried over MgSO4, filtered and concentrated. The residue was purified by MPLC (24 g silica gel, 50% to 100% ethyl acetate in hexanes, 18 CV) to afford light color solid product 7-(1-bromo-8-chloroimidazo[1,5-a]pyrazin-3-yl)-3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine (595 mg, 1.408 mmol, 90% yield). LC-MS: C12H8BrClF3N7, 421. found 422.02 [M+H]+, RT=1.30 min.

reactant | 7-(8-chloroimidazo[1,5-a]pyrazin-3-yl)-3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine | 1.571 mmol, 540 mg | ClC=1C=2N(C=CN1)C(=NC2)N2CC=1N(CC2)C(=NN1)C(F)(F)F | C12H9ClF3N7
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | 1-bromopyrrolidine-2,5-dione | 1.728 mmol, 308 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(1-bromo-8-chloroimidazo[1,5-a]pyrazin-3-yl)-3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine | 1.408 mmol, 595 mg, 90% yield | BrC=1N=C(N2C1C(=NC=C2)Cl)N2CC=1N(CC2)C(=NN1)C(F)(F)F | C12H8BrClF3N7
